US07456191B2
2-Chloro-4-prop-2-ynyloxy-5-trifluoromethyl-pyrimidine
3.97 ml (68.2 mmol) Prop-2-yn-1-ol are slowly added to 3.40 g (15.6 mmol) of 2,4-Dichloro-5-trifluoromethyl-pyrimidine at 0° C. under a nitrogen atmosphere. 0.79 ml Trifluoro-acetic acid are added dropwise and the batch is stirred for 6 hours at 0° C. The batch is poured on ice and extracted with ethyl acetate (3×). The combined organic phases are washed with water, dried (Na2SO4), filtered and concentrated by evaporation. The remaining residue is purified by chromatography (hexane/ethyl acetate 95:5). 591 mg (2.5 mmol, corresponding to 16% of theory) of the product is obtained.

reactant | Prop-2-yn-1-ol | 68.2 mmol, 3.97 ml | C(C#C)O | C3H4O
reactant | 2,4-Dichloro-5-trifluoromethyl-pyrimidine | 15.6 mmol, 3.40 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | Trifluoro-acetic acid | 0.79 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 2-Chloro-4-prop-2-ynyloxy-5-trifluoromethyl-pyrimidine | ClC1=NC=C(C(=N1)OCC#C)C(F)(F)F | C8H4ClF3N2O
